US05389641
23e) 4-Cyano-5-(p-bromomethylphenyl)pyrimidine
A solution of 4-cyano-5-(p-tolyl)pyrimidine (1.2 g, 6 mmol), N-bromosuccinimide (1.15 g, 6 mmol) and benzoyl peroxide (catalytic amount) in carbon tetrachloride (50 ml) was refluxed under light radiation for 1 hour. After cooling, insoluble materials were removed and the filtrate was concentrated to dryness. Recrystallization from ether-isopropyl ether afforded colorless powders (1 g, 59%), m.p. 114°-116° C.

reactant | 4-cyano-5-(p-tolyl)pyrimidine | 6 mmol, 1.2 g | C(#N)C1=NC=NC=C1C1=CC=C(C=C1)C | C12H9N3
reactant | N-bromosuccinimide | 6 mmol, 1.15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Cyano-5-(p-bromomethylphenyl)pyrimidine | C(#N)C1=NC=NC=C1C1=CC=C(C=C1)CBr | C12H8BrN3
